US04803211
To a mixture of 0.42 g of 4-acetyl-3-hydroxy-2-propylbenzyl chloride, 0.54 g of ethyl [(5-mercapto-1,3,4-thiadia- zol-2-yl)thio]acetate, 0.30 g of anhydrous potassium carbonate and 5 ml of methyl ethyl ketone were added catalytic amounts of potassium iodide and tetra-n-butylammonium bromide followed by stirring at 60° C. for 3 hours. The reaction mixture was diluted with toluene and insoluble matters were filtered off. The filtrate was washed with an aqueous sodium hydroxide solution and dried over anhydrous magnesium sulfate. The solvent was then distilled off. The residue was subjected to silica gel column chromatography. Elution with a mixture of hexane-ethyl acetate (5:1) gave 0.75 g of oily ethyl [[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]1,3,4-thiadiazol-2-yl]thio]acetate.

reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | 0.42 g | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | ethyl [(5-mercapto-1,3,4-thiadia- zol-2-yl)thio]acetate | 0.54 g | SC1=NN=C(S1)SCC(=O)OCC | C6H8N2O2S3
reactant | potassium carbonate | 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
product | ethyl [[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]1,3,4-thiadiazol-2-yl]thio]acetate | 0.75 g | C(C)(=O)C1=C(C(=C(CSC2=NN=C(S2)SCC(=O)OCC)C=C1)CCC)O | C18H22N2O4S3
